### PR TITLE
feat: getLsb_{rotateLeft, rotateRight}

### PR DESCRIPTION
**Pull request by bollu**
These will be used by LeanSAT for bitblasting rotations by constant distances. 

We first reduce the case when the rotation amount is larger than the width to the case where the rotation amount is less than the width (`x.rotateLeft/Right r = x.rotateLeft/Right (r%w)`).

Then, we case analyze on the low bits versus the high bits of the rotation, where we prove equality by extensionality.

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -1069,8 +1069,153 @@ theorem rotateLeft_eq_rotateLeftAux_of_lt {x : BitVec w} {r : Nat} (hr : r < w)
...
+    Intuitively, grab the full width (7), then move the marker `|` by `r` to the right `(-2)`
+    Then, access the bit at `i` from the right `(+i)`.
+ -/
+theorem getLsb_rotateLeftAux_of_le {x : BitVec w} {r : Nat} {i : Nat} (hi : i < r) :
+    (x.rotateLeftAux r).getLsb i = x.getLsb (w - r + i) := by
+  rw [rotateLeftAux, getLsb_or, getLsb_ushiftRight]
+  suffices (x <<< r).getLsb i = false by
+    simp only [getLsb_shiftLeft, Bool.or_iff_right_iff_imp, Bool.and_eq_true, decide_eq_true_eq,
+      Bool.not_eq_true', decide_eq_false_iff_not, Nat.not_lt, and_imp]
+    omega
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:1098]: I'm not sure if all the lemmas given here are in the default simp-set, but if they are:
```suggestion
    simp; omega
```
Is considered an acceptable use of unsqueezed `simp` (Idem ditto for the next 3 lines)

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -1069,8 +1069,153 @@ theorem rotateLeft_eq_rotateLeftAux_of_lt {x : BitVec w} {r : Nat} (hr : r < w)
...
+theorem getLsb_rotateLeftAux_of_geq {x : BitVec w} {r : Nat} {i : Nat} (hi : i ≥ r) :
+    (x.rotateLeftAux r).getLsb i = (decide (i < w) && x.getLsb (i - r)) := by
+  rw [rotateLeftAux, getLsb_or]
+  suffices (x >>> (w - r)).getLsb i = false by
+    rw [this]
+    simp only [getLsb_shiftLeft, Bool.or_false, hi]
+    have hiltr : decide (i < r) = false := by
+      simp [hi]
+    rw [hiltr]
+    simp
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:1130]: You can golf this proof by folding the various rewrite steps into a single `simp`. I'll leave it up to your sense of aesthetics as to whether this is actually better.
```suggestion
    have hiltr : decide (i < r) = false := by
      simp [hi]
    simp [getLsb_shiftLeft, Bool.or_false, hi, hiltr, this]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -1069,8 +1069,153 @@ theorem rotateLeft_eq_rotateLeftAux_of_lt {x : BitVec w} {r : Nat} (hr : r < w)
...
+    (x.rotateLeft r).getLsb i =
+      if i < r
+      then x.getLsb (w - r + i)
+      else decide (i < w) && x.getLsb (i - r) := by
+  · rw [rotateLeft_eq_rotateLeftAux_of_lt hr]
+    by_cases h : i < r
+    · simp [h, getLsb_rotateLeftAux_of_le h]
+    · rw [getLsb_rotateLeftAux_of_geq]
+      simp only [Bool.and_eq_true, decide_eq_true_eq, h, ↓reduceIte, Bool.decide_eq_true]
+      omega
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:1146]: Using `omega` to conclude `i >= r` from `\lnot (i < r)` feels a bit overkill
```suggestion
    · simp [h, getLsb_rotateLeftAux_of_geq <| Nat.ge_of_not_lt h]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -1069,8 +1069,153 @@ theorem rotateLeft_eq_rotateLeftAux_of_lt {x : BitVec w} {r : Nat} (hr : r < w)
...
+theorem getLsb_rotateRightAux_of_geq {x : BitVec w} {r : Nat} {i : Nat} (hi : i ≥ w - r) :
+    (x.rotateRightAux r).getLsb i = (decide (i < w) && x.getLsb (i - (w - r))) := by
+  rw [rotateRightAux, getLsb_or]
+  suffices (x >>> r).getLsb i = false by
+    simp only [this, getLsb_shiftLeft, Bool.false_or]
+    by_cases hiw : i < w
+    · simp only [hiw, decide_True, Bool.true_and, Bool.and_iff_right_iff_imp, Bool.not_eq_true',
+      decide_eq_false_iff_not, Nat.not_lt]
+      omega
+    · simp only [hiw, decide_False, Bool.false_and]
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:1214]:
```suggestion
    by_cases hiw : i < w 
    <;> simp [hiw, hi]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -1083,4 +1228,27 @@ theorem rotateRight_mod_eq_rotateRight {x : BitVec w} {r : Nat} :
...
+    (x.rotateRight r).getLsb i =
+      if i < w - r
+      then x.getLsb (r + i)
+      else decide (i < w) && x.getLsb (i - (w - r)) := by
+  · rw [rotateRight_eq_rotateRightAux_of_lt hr]
+    by_cases h : i < w - r
+    · simp [h, getLsb_rotateRightAux_of_le h]
+    · rw [getLsb_rotateRightAux_of_geq]
+      simp only [h, ↓reduceIte]
+      omega
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:1242]:
```suggestion
    · simp [h, getLsb_rotateRightAux_of_geq <| Nat.le_of_not_lt h]
```

**Review by alexkeizer — APPROVED** [review]
I've golved some of the proofs, but otherwise the proof strategy LGTM

File: src/Init/Data/BitVec/Lemmas.lean [hunk 6]
```diff
@@ -1069,8 +1069,145 @@ theorem rotateLeft_eq_rotateLeftAux_of_lt {x : BitVec w} {r : Nat} (hr : r < w)
     x.rotateLeft r = x.rotateLeftAux r := by
   simp only [rotateLeft, Nat.mod_eq_of_lt hr]
 
+
+/-- Accessing bits in `x.rotateLeft r` the range `[0, r)` is equal to
+    accesing bits `x` in the range `[w - r, w)`,
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:1074]:
```suggestion
    accessing bits `x` in the range `[w - r, w)`,
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 7]
```diff
@@ -1069,8 +1069,145 @@ theorem rotateLeft_eq_rotateLeftAux_of_lt {x : BitVec w} {r : Nat} (hr : r < w)
...
+      then x.getLsb (w - (r % w) + i)
+      else decide (i < w) && x.getLsb (i - (r % w)) := by
+  rcases w with ⟨rfl, w⟩
+  · simp
+  · rw [← rotateLeft_mod_eq_rotateLeft, getLsb_rotateLeft_of_le (Nat.mod_lt _ (by omega))]
+
 /-! ## Rotate Right -/
 
+/-- Accessing bits in `x.rotateRight r` the range `[0, w-r)` is equal to
+    accesing bits `x` in the range `[r, w)`,
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:1156]:
```suggestion
    accessing bits `x` in the range `[r, w)`,
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 8]
```diff
@@ -1069,8 +1069,145 @@ theorem rotateLeft_eq_rotateLeftAux_of_lt {x : BitVec w} {r : Nat} (hr : r < w)
...
+    (x.rotateRightAux r).getLsb i = x.getLsb (r + i) := by
+  rw [rotateRightAux, getLsb_or, getLsb_ushiftRight]
+  suffices (x <<< (w - r)).getLsb i = false by
+    simp only [this, Bool.or_false]
+  simp only [getLsb_shiftLeft, Bool.and_eq_false_imp, Bool.and_eq_true, decide_eq_true_eq,
+    Bool.not_eq_true', decide_eq_false_iff_not, Nat.not_lt, and_imp]
+  omega
+
+/-- Accessing bits in `x.rotateRight r` the range `[w-r, w)` is equal to
+    accesing bits `x` in the range `[0, r)`,
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:1183]:
```suggestion
    accessing bits `x` in the range `[0, r)`,
```

**Comment by bollu** [comment]
awaiting-review

File: src/Init/Data/BitVec/Lemmas.lean [hunk 9]
```diff
@@ -1069,8 +1069,143 @@ theorem rotateLeft_eq_rotateLeftAux_of_lt {x : BitVec w} {r : Nat} (hr : r < w)
     x.rotateLeft r = x.rotateLeftAux r := by
   simp only [rotateLeft, Nat.mod_eq_of_lt hr]
 
+
+/-- Accessing bits in `x.rotateLeft r` the range `[0, r)` is equal to
+    accessing bits `x` in the range `[w - r, w)`,
+    given by `i : [0, r) ↦ w - r + i : [w - r, w)`.
```
Comment (semorrison) [inline src/Init/Data/BitVec/Lemmas.lean:1075]:
```suggestion
/--
Accessing bits in `x.rotateLeft r` the range `[0, r)` is equal to
accessing bits `x` in the range `[w - r, w)`,
given by `i : [0, r) ↦ w - r + i : [w - r, w)`.
```
and below. Life is too short to maintain indenting. :-)

Comment (semorrison) [reply src/Init/Data/BitVec/Lemmas.lean:1075]: To be honest, I found this explanation (particularly that it uses lots of non-Lean notation!) less helpful than the theorem statement. I like examples in doc-strings, but this one needs a rewrite!

File: src/Init/Data/BitVec/Lemmas.lean [hunk 10]
```diff
@@ -1069,8 +1069,143 @@ theorem rotateLeft_eq_rotateLeftAux_of_lt {x : BitVec w} {r : Nat} (hr : r < w)
...
+  simp only [getLsb_ushiftRight]
+  apply getLsb_ge
+  omega
+
+/-- When `r < w`, we give a formula for `(x.rotateRight r).getLsb i`. -/
+theorem getLsb_rotateLeft_of_le {x : BitVec w} {r i : Nat} (hr: r < w) :
+    (x.rotateLeft r).getLsb i =
+      if i < r
+      then x.getLsb (w - r + i)
+      else decide (i < w) && x.getLsb (i - r) := by
```
Comment (semorrison) [inline src/Init/Data/BitVec/Lemmas.lean:1135]: I wonder (no strong opinion) if it would be better to use `cond (decide (i < r) ...` rather than `if` here, to stay in the pure `Bool` fragment. I don't think it matter a lot, and would perhaps be less readable.

**Comment by semorrison** [comment]
Otherwise, I'm happy with the statements and proofs.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 9 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean]: Fixed!

File: src/Init/Data/BitVec/Lemmas.lean (hunk 10 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean]: I updated to use `cond`, since it feels cleaner to me as well: it's less jarring, since it's now all uniformly low level.

**Comment by bollu** [comment]
@semorrison all comments addressed.
